US06500828B1
d) 3-(2,5-Difluorophenyl)-7-(1,1-dimethylethyl)-6-(2-methyl-2H-1,2,4-triazol-3-ylmethoxy)-1,2,4-triazolo[4,3-b]pyridazine
To a solution of (2-methyl-2H-1,2,4-triazol-3-yl)methanol (0.069 g, 0.4 mmol) and 6-chloro-3-(2,5-difluorophenyl)-7-(1,1-dimethylethyl)-1,2,4-triazolo[4,3-b]pyridazine (0.10 g, 0.31 mmol) in DMF (10 ml) was added sodium hydride (0.015 g of a 60% dispersion in oil, 1.2 mol eq.) and the reaction mixture was stirred at room temperature for 40 minutes. After this time the reaction mixture was diluted with water (80 ml) and the solid that precipitated was collected by filtration and washed several times with water in the sinter funnel. The solid was recrystallised from ethyl acetate/hexane to give pure title compound (0.088 g, 65%). Data for the title compound: 1H NMR (360 MHz, CDCl3) δ1.41 (9H, s), 3.89 (3H, s), 5.54 (2H, s), 7.23-7.26 (2H, m), 7.64 (1H, m), 7.91 (1H, s), 8.00 (1H, s); MS (ES+) m/e 400 [MH]+. Anal. Found C, 57.36; H, 4.61; N, 24.60%. C19H19F2N7O requires C, 57.14; H, 4.79; N, 24.55%.

reactant | (2-methyl-2H-1,2,4-triazol-3-yl)methanol | 0.4 mmol, 0.069 g | CN1N=CN=C1CO | C4H7N3O
reactant | 6-chloro-3-(2,5-difluorophenyl)-7-(1,1-dimethylethyl)-1,2,4-triazolo[4,3-b]pyridazine | 0.31 mmol, 0.10 g | ClC=1C(=CC=2N(N1)C(=NN2)C2=C(C=CC(=C2)F)F)C(C)(C)C | C15H13ClF2N4
reactant | sodium hydride | [H-].[Na+]
solvent | DMF | 10 ml | CN(C)C=O | C3H7NO
solvent | water | 80 ml | O | H2O
product | 3-(2,5-Difluorophenyl)-7-(1,1-dimethylethyl)-6-(2-methyl-2H-1,2,4-triazol-3-ylmethoxy)-1,2,4-triazolo[4,3-b]pyridazine | 0.088 g, 65% | FC1=C(C=C(C=C1)F)C1=NN=C2N1N=C(C(=C2)C(C)(C)C)OCC=2N(N=CN2)C | C19H19F2N7O
